US07169761B2
A 1.0 M dichloromethane solution of tin tetrachloride (16.5 ml) was added to a suspension of 1,2,3,4,6-penta-O-acetyl-β-D-glucopyranose (6.41 g), 1,2-diethoxy-4-methylbenzene (2.47 g), and silver trifluoroacetate (3.63 g) in 1,2-dichloroethane (70 ml) at 0° C. and the mixture was stirred at the same temperature for one hour. After heating to room temperature and stirring for 15 hours, saturated aqueous solution of sodium bicarbonate was added to the mixture. The reaction mixture was filtered through celite and the filtrate was extracted with chloroform. The organic layer was washed with water and saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure. Methanol (200 ml) and a catalytic amount of sodium methoxide were added to the resulting residue and the mixture was stirred at room temperature overnight. The solvent was evaporated under reduced pressure and the resulting residue was purified by silica gel column chromatography (chloroform-methanol). Pyridine (30 ml), acetic anhydride (5 ml), and a catalytic amount of 4-dimethylaminopyridine were added to the resulting residue and the mixture was stirred at room temperature for two days. Toluene was added to the reaction mixture and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-n-hexane) to obtain (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-(2,3-diethoxy-5-methylphenyl)-D-glucitol (2.51 g).

reactant | tin tetrachloride | 16.5 ml | [Sn](Cl)(Cl)(Cl)Cl
reactant | 1,2,3,4,6-penta-O-acetyl-β-D-glucopyranose | 6.41 g | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C16H22O11
reactant | 1,2-diethoxy-4-methylbenzene | 2.47 g | C(C)OC1=C(C=C(C=C1)C)OCC | C11H16O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 70 ml | ClCCCl | C2H4Cl2
catalyst | silver trifluoroacetate | 3.63 g | FC(C(=O)[O-])(F)F.[Ag+]
solvent | dichloromethane | 1.0 M | ClCCl | CH2Cl2
product | (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-(2,3-diethoxy-5-methylphenyl)-D-glucitol | 2.51 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C1=C(C(=CC(=C1)C)OCC)OCC | C25H34O11
